US04233299
0.29 gm (1 millimol) of methyl 7-fluoro-4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate-1,1-dioxide and 0.125 gm (1.1 millimols) of 2-amino-5-methyl-thiazole were refluxed in 50 ml of xylene for 24 hours. The reaction mixture was evaporated to dryness in vacuo, and the residue was recrystallized from xylene/cyclohexane. 0.21 gm (57% of theory) of 7-fluoro-4-hydroxy-2-methyl-N-(5-methyl-2-thiazolyl)-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide were obtained.

reactant | methyl 7-fluoro-4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate-1,1-dioxide | 1 millimol, 0.29 gm | FC1=CC2=C(C(=C(N(S2(=O)=O)C)C(=O)OC)O)C=C1 | C11H10FNO5S
reactant | 2-amino-5-methyl-thiazole | 1.1 millimols, 0.125 gm | NC=1SC(=CN1)C | C4H6N2S
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 7-fluoro-4-hydroxy-2-methyl-N-(5-methyl-2-thiazolyl)-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide | 0.21 gm, 57% | FC1=CC2=C(C(=C(N(S2(=O)=O)C)C(=O)NC=2SC(=CN2)C)O)C=C1 | C14H12FN3O4S2
